US06800418B2
70 g hexafluoroisopropyl alcohol was dissolved in 350 mL dry tetrahydrofuran (THF), followed by dropwise addition of 350 mL 2.5M n-butyllithium for 30 minutes at −70° C. in a nitrogen atmosphere. After stirring for 10 minutes at −70° C., the temperature was elevated in a 0° C.-ice bath. After stirring for additional 1 hour, 53 g of 5-norbornene-2-carboxaldehyde was dropwise added into the solution and stirred at 0° C. for 2 hours. After neutralization with 450 mL a 1 M aqueous solution of hydrochloric acid, the organic phase was separated. The organic layer was diluted with 500 mL of ethylacetate and washed with 500 mL of a saturated aqueous solution of NaCl. The aqueous phase was extracted with 500 mL of ethylacetate. After drying the isolated organic phase with anhydrous MgSO4, the ethylacetate was distilled under reduced pressure. The remaining product was subjected to column chromatography by using a 1:3 mixture of ethylacetate and hexane by volume as a solvent. Recrystallization at a low temperature following solvent removal resulted 1-bicyclo[2.2.1]hept-5-ene-2-yl-2,2,4,4,4-pentafluoro-butan-1,3,3-triol with a yield of 51%.

reactant | hexafluoroisopropyl alcohol | 70 g | FC(C(C(F)(F)F)O)(F)F | C3H2F6O
reactant | n-butyllithium | 2.5M, 350 mL | C(CCC)[Li]
reactant | 5-norbornene-2-carboxaldehyde | 53 g | C12C(CC(C=C1)C2)C=O | C8H10O
reactant | tetrahydrofuran | 350 mL | O1CCCC1 | C4H8O
product | 1-bicyclo[2.2.1]hept-5-ene-2-yl-2,2,4,4,4-pentafluoro-butan-1,3,3-triol | yield of 51% | C12C(CC(C=C1)C2)C(C(C(C(F)(F)F)(O)O)(F)F)O | C11H13F5O3
